US08476434B2
To [4-(2-chloro-pyridin-3-yl)-[1,3,5]triazin-2-yl]-methyl-amine (6.90 g, 31.1 mmol), 2-fluoro-5-hydroxybenzoic acid (4.9 g, 31.1 mmol) and Cs2CO2 (20.3 g, 62.2 mmol) was added DMSO (25 mL). The mixture was heated overnight at 130° C. in a sealed tube. The cooled mixture was diluted with water and extracted with EtOAc. The aqueous layer was acidified (pH˜4) with TFA and the resulting solid was filtered, washed with water and dried to yield 2-fluoro-5-[3-(4-methylamino-[1,3,5]triazin-2-yl)-pyridin-2-yloxy]-benzoic acid. MS m/z=342 [M+1]+. Calc'd for C16H12FN5O3: 341.30.

reactant | [4-(2-chloro-pyridin-3-yl)-[1,3,5]triazin-2-yl]-methyl-amine | 31.1 mmol, 6.90 g | ClC1=NC=CC=C1C1=NC(=NC=N1)NC | C9H8ClN5
reactant | 2-fluoro-5-hydroxybenzoic acid | 31.1 mmol, 4.9 g | FC1=C(C(=O)O)C=C(C=C1)O | C7H5FO3
reactant | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-fluoro-5-[3-(4-methylamino-[1,3,5]triazin-2-yl)-pyridin-2-yloxy]-benzoic acid | FC1=C(C(=O)O)C=C(C=C1)OC1=NC=CC=C1C1=NC=NC(=N1)NC | C16H12FN5O3
